US04128540
To a mixture consisting of 10 g. of N-benzhydryloxycarbonylglycine [this compound is reported in J. Am. Chem. Soc., 87, 3969 (1965)], 9.4 g. of pentachlorophenol, and 150 ml. of ethyl acetate, at 5° C., is added 7.3 g. of dicyclohexylcarbodiimide, and the resulting solution is kept at 5° C. for 5 hours and filtered. The filtrate is evaporated, and the residue is triturated with petroleum ether to give a solid precipitate of N-benzhydryloxycarbonylglycine pentachlorophenyl ester, which is isolated and dried; m.p. 171°-172° C.

reactant | N-benzhydryloxycarbonylglycine | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)NCC(=O)O | C16H15NO4
reactant | pentachlorophenol | ClC1=C(C(=C(C(=C1O)Cl)Cl)Cl)Cl | C6HCl5O
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-benzhydryloxycarbonylglycine pentachlorophenyl ester | ClC1=C(C(=C(C(=C1OC(CNC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=O)Cl)Cl)Cl)Cl | C22H14Cl5NO4
